US07015218B1
Subsequently, a catalytic amount of potassium iodide was added to 4-neopentyloxynitrobenzene (69 g), and bromine (66 g) was added dropwise at 60° C. The mixture was stirred for 5 h. The reaction mixture was poured into water and extracted with toluene. The organic layer was washed with aqueous sodium sulfite solution, dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. The residue was recrystallized from n-hexane to give 3-bromo-4-neopentyloxynitrobenzene (80 g), melting point: 86–88° C.

reactant | potassium iodide | [I-].[K+]
reactant | 4-neopentyloxynitrobenzene | 69 g | C(C(C)(C)C)OC1=CC=C(C=C1)[N+](=O)[O-] | C11H15NO3
reactant | bromine | 66 g | BrBr | Br2
solvent | water | O | H2O
product | 3-bromo-4-neopentyloxynitrobenzene | 80 g | BrC=1C=C(C=CC1OCC(C)(C)C)[N+](=O)[O-] | C11H14BrNO3
